US08426420B2
iv) 4-[(S)-2-Amino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester hydrochloride
A solution of 900 mg 4-[(S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester in 5 ml dioxane and 5 ml HCl (4 M in dioxane) was stirred for 3 h at RT. After this time the reaction mixture was neutralized with (Polystyryl-methyl)trimethylammonium bicarbonate, the suspension filtered, washed with ethyl acetate and the wash solutions evaporated to give the crude product. Yield: 760 mg.

reactant | 4-[(S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester | 900 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C35H53N3O6Si
reactant | HCl | 4 M, 5 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-[(S)-2-Amino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-piperazine-1-carboxylic acid butyl ester hydrochloride | Cl.C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N)=O | InChI=1S/C30H45N3O4Si.ClH/c1-5-6-23-36-29(35)33-21-19-32(20-22-33)28(34)27(31)18-13-24-37-38(30(2,3)4,25-14-9-7-10-15-25)26-16-11-8-12-17-26;/h7-12,14-17,27H,5-6,13,18-24,31H2,1-4H3;1H/t27-;/m0./s1
